US07320994B2
4-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-3-(2-chloro-phenyl)-isoxazolo[4,3-c]pyridine
Combine [4-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazole-4-carbonyl]-5-(2-chloro-phenyl)-isoxazol-3-yl]-acetaldehyde (0.401 g, 0.65 mmol) and acetic acid (4.5 mL), add ammonium acetate (0.25 g, 3.2 mmol) and stir at 65° C. for 90 minutes. Concentrate, neutralize with saturated aqeous NaHCO3, extract with ether, dry over MgSO4, filter and concentrate under vacuum. Purify on chromatotron, using EtOAc/Hexane (10%-85%) to give the title compound: Exact mass 599.1, MS (IS) 600.1 (M+1), 1H NMR (CDCl3): δ 8.15 (d, J=6.6 Hz, 1H), 7.85 (s, 1H), 7.60 (m, 1H), 7.52-7.38 (m, 8H), 7.17 (m, 2H), 5.54 (s, 2H).

reactant | [4-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazole-4-carbonyl]-5-(2-chloro-phenyl)-isoxazol-3-yl]-acetaldehyde | 0.65 mmol, 0.401 g | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C(=O)C=2C(=NOC2C2=C(C=CC=C2)Cl)CC=O)C=C(C1)C(F)(F)F)(F)F | C29H17ClF6N4O3
reactant | ammonium acetate | 3.2 mmol, 0.25 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 4.5 mL | C(C)(=O)O | C2H4O2
product | 4-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-3-(2-chloro-phenyl)-isoxazolo[4,3-c]pyridine | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C2=NC=CC=3C2=C(ON3)C3=C(C=CC=C3)Cl)C=C(C1)C(F)(F)F)(F)F | C29H16ClF6N5O
